US04824958
Methyl 3-hydroxy-5-methyl-2-thiophenecarboxylate.
Prepared by the method described in Example 1 from ethyl acetoacetate (130 g, 1.0 mole), methyl thioglycolate (212 g, 2.0 moles) and sodium (53 g, 2.3 moles). The crude product is shaken with two portions of dichloromethane, filtered, and the filtrate stripped of solvent under reduced pressure to afford the product (90.1 g); mp 50°-53° C.

reactant | ethyl acetoacetate | 1.0 mole, 130 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | methyl thioglycolate | 2.0 moles, 212 g | C(CS)(=O)OC | C3H6O2S
reactant | sodium | 2.3 moles, 53 g | [Na] | Na
solvent | dichloromethane | ClCCl | CH2Cl2
product | Methyl 3-hydroxy-5-methyl-2-thiophenecarboxylate | 90.1 g | OC1=C(SC(=C1)C)C(=O)OC | C7H8O3S
